US09163012B2
Crude (R)-tert-butyl 3-((2-acetamido-6-chlorophenyl)amino)pyrrolidine-1-carboxylate (148 mg) was dissolved in glacial HOAc (20 mL) and heated at 70° C. for 1 day. The mixture was concentrated. The residue was taken up in EtOAc (100 mL), washed with satd aq NaHCO3 (10 mL) and brine (10 mL), and dried over Na2SO4. Removal of the solvent left a brown oil (133 mg) which was purified by chromatography on a 12-g silica gel cartridge eluted with a 0-100% EtOAc in hexanes gradient to afford (R)-tert-butyl 3-(7-chloro-2-methyl-1H-benzo[d]imidazol-1-yl)pyrrolidine-1-carboxylate (59 mg, 18%) as a brown oil. LC-MS Method 1 tR=1.42 min, m/z=336.

reactant | (R)-tert-butyl 3-((2-acetamido-6-chlorophenyl)amino)pyrrolidine-1-carboxylate | 148 mg | C(C)(=O)NC1=C(C(=CC=C1)Cl)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C17H24ClN3O3
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | (R)-tert-butyl 3-(7-chloro-2-methyl-1H-benzo[d]imidazol-1-yl)pyrrolidine-1-carboxylate | 59 mg, 18% | ClC1=CC=CC2=C1N(C(=N2)C)[C@H]2CN(CC2)C(=O)OC(C)(C)C | C17H22ClN3O2
